US07728020B2
Preparation of (R)-4-tert-Butoxycarbonylamino-6-(4-heptyloxy-phenyl)-4-methyl-hexanoic acid
To a stirred solution of (E)-(R)-4-tert-butoxycarbonylamino-6-(4-heptyloxy-phenyl)-4-methyl-hex-2-enoic acid (53 mg, 0.12 mMol) in AcOEt (10 ml) is added palladium on charcoal (10 mg, 10%). The reaction is stirred under a H2-atmosphere at RT for 17 hours. The reaction mixture is filtered over Celite and the filtrate is concentrated under reduced pressure to give the title compound as a colourless oil. The crude product is sufficiently pure to be used in the next stage without further purification.

reactant | (E)-(R)-4-tert-butoxycarbonylamino-6-(4-heptyloxy-phenyl)-4-methyl-hex-2-enoic acid | 0.12 mMol, 53 mg | C(C)(C)(C)OC(=O)N[C@@](/C=C/C(=O)O)(CCC1=CC=C(C=C1)OCCCCCCC)C | C25H39NO5
solvent | AcOEt | 10 ml | CCOC(=O)C | C4H8O2
catalyst | palladium on charcoal | 10 mg | [Pd] | Pd
product | (R)-4-tert-Butoxycarbonylamino-6-(4-heptyloxy-phenyl)-4-methyl-hexanoic acid | C(C)(C)(C)OC(=O)N[C@@](CCC(=O)O)(CCC1=CC=C(C=C1)OCCCCCCC)C | C25H41NO5
